US08461179B1
A solution of ethyl 2-(2-chloro-4-fluoro-5-nitrophenyl)acetate (22.5 g, 86.2 mmol) in EtOH (200 mL) was stirred with Raney Ni (20% slurry in water, 5.0 g, 17 mmol) under a hydrogen atmosphere (30 psi) for 5 h. The catalyst was removed by filtration and the filtrate was concentrated to give ethyl 2-(5-amino-2-chloro-4-fluorophenyl)acetate (19 g, 95% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.10 (d, J=11.2 Hz, 1H), 6.71 (d, J=9.2 Hz, 1H), 5.27 (s, 2H), 4.05 (q, J=6.8 Hz, 2H), 3.57 (s, 2H), 1.14 (t, J=6.8 Hz, 3H); MS (ESI) m/z: 232.0 [M+H]+.

reactant | ethyl 2-(2-chloro-4-fluoro-5-nitrophenyl)acetate | 86.2 mmol, 22.5 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(=O)OCC | C10H9ClFNO4
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | Ni | 17 mmol, 5.0 g | [Ni] | Ni
product | ethyl 2-(5-amino-2-chloro-4-fluorophenyl)acetate | 19 g, 95% yield | NC=1C(=CC(=C(C1)CC(=O)OCC)Cl)F | C10H11ClFNO2
